US07666878B2
97b) {1-[1-(4-Methanesulfonyl-phenyl)-ethyl]-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl}-acetic acid—Enantiomer 1
A solution of {1-[1-(4-methanesulfonyl-phenyl)-ethyl]-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl}-acetic acid methyl ester (Enantiomer A) (22 mg, 0.05 mmol) in THF (0.5 ml) and methanol (0.5 ml) is treated with 2M lithium hydroxide (0.2 ml) and stirred at room temperature for 30 minutes. The solvent is removed in vacuo and the crude is dissolved in water (10 ml) and acidified to pH1 using concentrated HCl. The mixture is then extracted with ethyl acetate (2×10 ml) and the organic portions are washed with brine, dried (MgS04) and concentrated in vacuo to yield the titled product as a colourless glassy solid. (MH+ 373) The enantiomer of the titled compound (Enantiomer 2) is prepared analogously using the procedure described above by replacing Enantiomer A with Enantiomer B. (MH+ 373)

reactant | {1-[1-(4-methanesulfonyl-phenyl)-ethyl]-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl}-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)C(C)C2=CC=C(C=C2)S(=O)(=O)C)C)=O | C20H22N2O4S
reactant | methanol | 0.5 ml | CO | CH4O
reactant | lithium hydroxide | 2M, 0.2 ml | [OH-].[Li+]
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | {1-[1-(4-Methanesulfonyl-phenyl)-ethyl]-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl}-acetic acid | CS(=O)(=O)C1=CC=C(C=C1)C(C)N1C(=C(C=2C1=NC=CC2)CC(=O)O)C | C19H20N2O4S
